US07332508B2
1-{4-[3-(1-Isopropylpiperidin-4-yl)[1,2,4]oxadiazol-5-yl]phenyl}ethanone, Hydrochloride
The title compound was prepared by a similar procedure to that described in Example 56, starting from 1-isopropyl-N-hydroxypiperidine-4-carboxamidine and 4-acetylbenzoyl chloride.

reactant | 1-isopropyl-N-hydroxypiperidine-4-carboxamidine | C(C)(C)N1CCC(CC1)C(=N)NO | C9H19N3O
reactant | 4-acetylbenzoyl chloride | C(C)(=O)C1=CC=C(C(=O)Cl)C=C1 | C9H7ClO2
product | 1-{4-[3-(1-Isopropylpiperidin-4-yl)[1,2,4]oxadiazol-5-yl]phenyl}ethanone, Hydrochloride | Cl.C(C)(C)N1CCC(CC1)C1=NOC(=N1)C1=CC=C(C=C1)C(C)=O | InChI=1S/C18H23N3O2.ClH/c1-12(2)21-10-8-15(9-11-21)17-19-18(23-20-17)16-6-4-14(5-7-16)13(3)22;/h4-7,12,15H,8-11H2,1-3H3;1H
